US08138189B2
Step 1: (2-Chloro-4-methoxy-phenyl)-acetic acid methyl ester
Methanol (12.13 mL), DMAP (609 mg), EDC (19.11 g), and triethylamine (13.88 mL) were added under cooling (ice) to a solution of (2-chloro-4-methoxy-phenyl)-acetic acid (20.00 g, [CAS Reg. No. 91367-09-8]) in CH2Cl2 (400 mL). The reaction mixture was stirred overnight at r.t. The reaction mixture was poured into ice/water and acidified with 1M aqueous HCl to pH 2. The aqueous layer was extracted two times with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash chromatography (silica gel, gradient of heptane in ethyl acetate) to give the title compound as a colorless oil (18.77 g, 88%). MS (m/e)=215.1 [MH+].

reactant | Methanol | 12.13 mL | CO | CH4O
reactant | EDC | 19.11 g
reactant | (2-chloro-4-methoxy-phenyl)-acetic acid | ClC1=C(C=CC(=C1)OC)CC(=O)O | C9H9ClO3
reactant | HCl | 1M | Cl | ClH
catalyst | DMAP | 609 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 13.88 mL | C(C)N(CC)CC | C6H15N
product | (2-Chloro-4-methoxy-phenyl)-acetic acid methyl ester | 18.77 g, 88% | COC(CC1=C(C=C(C=C1)OC)Cl)=O | C10H11ClO3
